US06265350B1
VP3 2-(2,6difluorophenyl)-4-(4-bromophenyl)oxazoline (16.4 g, 48.8 mmol) was introduced into dioxane under nitrogen, hexamethyldistannane (20 g, 61.2 mmol), Pd(PPh3)4 (1.4 g, 1.2 mmol) and lithium chloride (0.38 g, 4.4 mmol) were added and the mixture was refluxed for 7 hours. The reaction mixture was stirred with water and extracted with heptane/ethyl acetate. The crude product (19.6 g, oil) contained approximately 70% of the Sn product. Separation by chromatography (eluent: heptane/ethyl acetate 2:1) yielded 2-(2,6difluorophenyl)4-(4-trimethylstannylphenyl)oxazoline, 13.4 g, oil, turned crystalline, DC Rf 0.59 (VP4 Rf 0.49).

reactant | 2-(2,6difluorophenyl)-4-(4-bromophenyl)oxazoline | 48.8 mmol, 16.4 g | FC1=C(C(=CC=C1)F)C=1OCC(N1)C1=CC=C(C=C1)Br | C15H10BrF2NO
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | hexamethyldistannane | 61.2 mmol, 20 g | C[Sn]([Sn](C)(C)C)(C)C
reactant | lithium chloride | 4.4 mmol, 0.38 g | [Cl-].[Li+]
catalyst | Pd(PPh3)4 | 1.2 mmol, 1.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 2-(2,6difluorophenyl)4-(4-trimethylstannylphenyl)oxazoline | FC1=C(C(=CC=C1)F)C=1OCC(N1)C1=CC=C(C=C1)[Sn](C)(C)C | InChI=1S/C15H10F2NO.3CH3.Sn/c16-11-7-4-8-12(17)14(11)15-18-13(9-19-15)10-5-2-1-3-6-10;;;;/h2-8,13H,9H2;3*1H3;
